US07074801B1
N1-Methyl-N1-(4-methyl-1,3-thiazol-2-yl)-4-iodo-1-benzene sulfonamide
760 mg of N1-(4-methyl-1,3-thiazol-2-yl)-4-iodo-1-benzene sulfonamide obtained by reacting 4-iodobenzenesulfonyl chloride with 2-amino-4-methylthiazole in pyridine was dissolved in a solvent mixture of 5 mL methanol and 3 mL tetrahydrofuran, then 1.1 mL (trimethylsilyl)diazomethane (2 M hexane solution) was added thereto, and the mixture was stirred for 1 hour. The solvent was evaporated and purified with an NH silica gel column, to give 335 mg of the title compound as a pale yellow solid.

reactant | 4-iodobenzenesulfonyl chloride | IC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClIO2S
reactant | 2-amino-4-methylthiazole | NC=1SC=C(N1)C | C4H6N2S
reactant | (trimethylsilyl)diazomethane | 2 M, 1.1 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | methanol | 5 mL | CO | CH4O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | N1-Methyl-N1-(4-methyl-1,3-thiazol-2-yl)-4-iodo-1-benzene sulfonamide | 335 mg | CN(S(=O)(=O)C1=CC=C(C=C1)I)C=1SC=C(N1)C | C11H11IN2O2S2
